US05011842
A mixture of 2.7 parts of 6-(2-chloroethyl)-1,7-dimethyl-1H,5H-imidazo[1,2-a]pyrimidin-5-one, 2.9 parts of 3-(2-ethoxyethyl)-2-(1-piperazinylmethyl) -3H-imidazo[4,5-b]pyridine, 1.06 parts of sodium carbonate and 80 parts of 4-methyl-2-pentanone was stirred first for 44 hours at reflux temperature and then over weekend at room temperature. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in 2-propanol. The salt was filtered off and dried, yielding 3.36 parts (47.3%) of 6-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]-pyridin-2-yl]methyl]1-piperazinyl]ethyl]-1,7-dimethyl-1H, 5H-imidazo[1,2-a]pyrimidin-5-one (E)-2-butenedioate(1:2); mp. 162.5° C. (compound 81).

reactant | 6-(2-chloroethyl)-1,7-dimethyl-1H,5H-imidazo[1,2-a]pyrimidin-5-one | ClCCC1=C(N=C2N(C1=O)C=CN2C)C | C10H12ClN3O
reactant | 3-(2-ethoxyethyl)-2-(1-piperazinylmethyl) -3H-imidazo[4,5-b]pyridine | C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCNCC2 | C15H23N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]-pyridin-2-yl]methyl]1-piperazinyl]ethyl]-1,7-dimethyl-1H, 5H-imidazo[1,2-a]pyrimidin-5-one (E)-2-butenedioate | 47.3% | C(\C=C\C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)CN2CCN(CC2)CCC2=C(N=C1N(C2=O)C=CN1C)C | InChI=1S/C25H34N8O2.C4H4O4/c1-4-35-17-16-32-22(28-21-6-5-8-26-23(21)32)18-31-13-11-30(12-14-31)9-7-20-19(2)27-25-29(3)10-15-33(25)24(20)34;5-3(6)1-2-4(7)8/h5-6,8,10,15H,4,7,9,11-14,16-18H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
